US05436357
Example 1--Preparation Of Monomer--Vinylphenylethyl triphenyltin Divinylbenzene Mixture
To a 250 ml round bottomed flask equipped with a magnetic stir bar is added 28.0 grams of triphenyltin hydride, 33.0 grams of 91% divinylbenzene, and 0.26 gram of 2,2'-azo-bis-isobutyronitrile. The mixture is placed under a nitrogen blanket and heated to a temperature of from 40° to 45° C. Samples of the reaction mixture are periodically taken and subjected to infrared analysis. The reaction is terminated when the tin-hydrogen absorption at 1850 cm-1 in the infrared spectrum disappears. This occurs after approximately 30 hours of heating the reaction mixture. The product is then stored at 0° C. until used for the preparation of the polymer.

reactant | triphenyltin hydride | 28.0 grams | C1(=CC=CC=C1)[SnH](C1=CC=CC=C1)C1=CC=CC=C1
reactant | divinylbenzene | 33.0 grams | C(=C)C1=C(C=CC=C1)C=C | C10H10
reactant | 2,2'-azo-bis-isobutyronitrile | 0.26 gram | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | Vinylphenylethyl triphenyltin Divinylbenzene | C(=C)C1=C(C=CC=C1)C=C.C(=C)C1=C(C=CC=C1)[Sn](C1=CC=CC=C1)(C1=CC=CC=C1)CCC1=CC=CC=C1 | InChI=1S/C10H10.C8H9.C8H7.2C6H5.Sn/c1-3-9-7-5-6-8-10(9)4-2;2*1-2-8-6-4-3-5-7-8;2*1-2-4-6-5-3-1;/h3-8H,1-2H2;3-7H,1-2H2;2-6H,1H2;2*1-5H;
